US08669234B2
2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 3-(2-{7-[2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-2-oxo-ethyl) ester 2-tert-butyl ester
A mixture of 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester (167 mg, 0.69 mmol) and DIPEA (0.11 mL, 0.67 mmol) was added to a solution of 2-{5-[7-(2-bromo-acetyl)-9,10-dihydro-phenanthren-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (0.37 mmol, crude) in acetonitrile (5 mL). The mixture was stirred at room temperature for 16 hours, then diluted with ethyl acetate (100 mL). The organic layer was washed with NaHCO3 solution and water, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 3-(2-{7-[2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-2-oxo-ethyl) ester 2-tert-butyl ester as a brown solid (132 mg, 51% over two steps). m/z 697.2 (M+H)+.

reactant | 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester | 0.69 mmol, 167 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C(=O)O)C2 | C12H19NO4
reactant | DIPEA | 0.67 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-{5-[7-(2-bromo-acetyl)-9,10-dihydro-phenanthren-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.37 mmol | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)C(CBr)=O | C28H30BrN3O3
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 3-(2-{7-[2-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-2-oxo-ethyl) ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C(=O)OCC(=O)C1=CC=3CCC4=CC(=CC=C4C3C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C)C2 | C40H48N4O7
